US04689321
3-(Thymidin-3'-yl) acrylonitrile
The title compound is obtained by following essentially the same method described in Example V. Thus starting from thymidine (360 mg, 1.5 mmol), triethylamine (210 μl, 1.5 mmol) and acetylene cyanide. (152 mg, 3 mmol), the title compound is obtained after purification on preparative TLC (5% methanol in ethyl acetate, Rf 0.45), as a slight yellow oil (140 mg, 35%) pure by TLC analysis. 1HNMR, (DMSO) 1.86 (s, 1H,-CH3 ) 6.17 (t,J=6.1 Hz, 1H, --O--CH--N) 6.18 (d, J=9 Hz, 1H, --CH=CH--CN) 7.06 (d,J=9 Hz, 1H, --CH=CH--CN) 7.89 (s,1H, N--CH=C--CH3).

reactant | thymidine | 1.5 mmol, 360 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | triethylamine | 1.5 mmol, 210 μl | C(C)N(CC)CC | C6H15N
reactant | acetylene cyanide | [C-]#N.C#C
product | 3-(Thymidin-3'-yl) acrylonitrile | [C@@H]1(C[C@](O)([C@@H](CO)O1)C=CC#N)N1C(=O)NC(=O)C(C)=C1 | C13H15N3O5
